US05426227
The invention relates to a new, industrially advantageous, process for the preparation of the known beta-adrenergic blocking agent, levobunolol, not requiring resolution of racemic bunolol, based on the enantioselective synthesis of an oxiranic intermediate which is then reacted with tert-butylamine. It consists of reacting 5-hydroxy-3,4-dihydro-1(2H)-naphthalenone with (R)-(-)epichlorhydrine in an aprotic solvent, in the presence of a strong base at a temperature of over 90° C., thus obtaining the intermediate chiral oxirane (S)-5-(2,3-epoxypropoxy)-3,4-dihydro-1-(2H)-naphthalenone with more than 95% optical purity, and then, the intermediate chiral oxirane is reacted with tert-butylamine.

reactant | levobunolol | CC(C)(C)NC[C@@H](COC=1C=CC=C2C1CCCC2=O)O | C17H25NO3
reactant | bunolol | CC(C)(C)NC[C@H](COC=1C=CC=C2C1CCCC2=O)O | C17H25NO3
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
reactant | 5-hydroxy-3,4-dihydro-1(2H)-naphthalenone | OC1=C2CCCC(C2=CC=C1)=O | C10H10O2
reactant | (R)-(-)epichlorhydrine | C(Cl)[C@H]1CO1 | C3H5ClO
product | oxirane (S)-5-(2,3-epoxypropoxy)-3,4-dihydro-1-(2H)-naphthalenone | O1[C@H](COC2=C3CCCC(C3=CC=C2)=O)C1.O1CC1 | InChI=1S/C13H14O3.C2H4O/c14-12-5-1-4-11-10(12)3-2-6-13(11)16-8-9-7-15-9;1-2-3-1/h2-3,6,9H,1,4-5,7-8H2;1-2H2/t9-;/m0./s1
